US08703383B2
Synthesis of 2-naphthoylethylvinyl ether (VE2)
In a 300 mL three necked oven dried round bottom flask equipped with a magnetic stirrer, 25 g (0.145 mol) of 2-naphthoic acid and 24.07 g (0.17 mol) of potassium carbonate (K2CO3) were suspended in 100 ml of dioxane and the mixture stirred at room temperature for 1 hour, forming a thick slurry. 18.53 g (0.17 mol) of 2-chloroethylvinyl ether dissolved in 10 ml of dioxane was slowly added to the reaction mixture using a dropping funnel over a period of 1 hour and the reaction refluxed overnight for another 12 hours until a complete reaction was ascertained by thin layer chromatography (TLC) analysis (silica plates; eluant 1% (v/v) methanol in chloroform). The reaction was quenched by pouring the mixture slowly into 400 ml of 0.01% (v/v) hydrochloric acid (HCl) solution, the crude product was extracted into 300 ml of ethyl acetate, and the ethyl acetate extract was washed sequentially with water and brine to neutral pH. The ethyl acetate extracts were then dried over sodium sulfate, filtered and concentrated by rotary evaporation to afford 32 g (92% yield) of an amber oil which solidifies upon standing. The product was used without further purification. 1H NMR (500 MHz, Acetone-d6): δ 8.64 (s, 1H), 8.08 (d, 2H, 8 Hz), 7.89 (d, 2H, 8.5 Hz), 7.64-7.59 (q, 2H), 6.56-6.52 (d/d, 1H, 7 Hz), 5.58 (s, 1H), 4.60 (m, 2H), 4.49 (m, 2H), 2.30 (s, 3H), 1.90 (s, 3H). 13C NMR (125 MHz, CDCl3): δ 166.6, 151.5, 135.6, 132.4, 131.3, 129.4, 128.3, 128.1, 127.7, 127.0, 126.6, 125.2, 87.1, 65.9, 63.3.

reactant | 2-naphthoic acid | 0.145 mol, 25 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | potassium carbonate | 0.17 mol, 24.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethylvinyl ether | 0.17 mol, 18.53 g | ClCCOC=C | C4H7ClO
reactant | methanol | CO | CH4O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-naphthoylethylvinyl ether | 32 g, 92% yield | C1=C(C=CC2=CC=CC=C12)C(=O)CCOC=C | C15H14O2
